* C:\Keshavfolder\!UNIVERSITY\Engineering\!PART 2\ECEN405\REPO\ECEN405DClass\LTSpice\InputFilter.asc
C1 N010 0 100n
R1 N010 N001 2.7k
R2 N001 N007 1.3k
C2 N002 N001 1.8µ
C3 N012 0 100n
R3 N012 N011 16k
V1 V+ 0 5
V2 0 V- 5
V3 N011 0 AC 1
C4 N009 N006 1µ
R4 N009 0 8.2k
C5 N004 N003 5.6µ
C6 N004 N008 3.3µ
R5 N008 0 15k
R6 N005 N004 910
XU6 N012 N007 V+ V- N007 LT1001
XU7 N010 N002 V+ V- N002 LT1001
XU8 N002 N006 V+ V- N006 LT1001
XU9 N009 N003 V+ V- N003 LT1001
XU10 N008 N005 V+ V- N005 LT1001
.ac dec 10 1 20000
.lib LTC.lib
.backanno
.end
