* C:\Keshavfolder\!UNIVERSITY\Engineering\!PART 2\ECEN405\REPO\ECEN405DClass\LTSpice\triangle2.asc
R4 N004 N003 30k
R5 N001 N004 1k
R2 P001 N005 10k
R3 N003 P001 10k
R1 N002 N005 8.2k
C1 N002 N001 5n
V1 +5 0 5
R6 +5 +REF 10k
R7 +REF 0 10k
XU1 N005 +REF +5 0 N003 LTC1051
XU2 +REF N001 +5 0 N002 LTC1051
C2 N006 N002 10µ
R8 +5 N006 4k
R9 N006 0 1k
V2 +IN 0 SINE(0 1 200)
XU3 N008 N006 +5 0 N007 LT1018
R10 +5 N008 4k
R11 N008 0 1k
C3 N008 +IN 100µ
.tran 0 0.6 0.5 0.001 startup
.lib LTC.lib
.lib LTC1.lib
.backanno
.end
